US04418197
35.0 g (0.20 mole) of 2,3-dichlorobenzaldehyde, 23.0 g (0.20 mole) of methyl 3-aminocrotonate, 40.0 g (0.20 mole) of acetoacetic acid 6-hydroxyhexyl ester and 100 ml of ethanol were mixed and heated at reflux for 6 hours, and the resultant product was chromatographed on a silica gel column to obtain 34.7 g (yield 38.0%) of 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)-3-methoxycarbonylpyridine-5-carboxylic acid 6-hydroxyhexyl ester as an oil. 13.7 g (0.03 mole) of this oil was dissolved together with 11.4 g (0.06 mole) of tosyl chloride in 100 ml of chloroform, to which was added dropwise 7.1 g (0.09 mole) of pyridine under ice cooling with stirring. This mixture was allowed to stand at room temperature for 2 hours, then 100 ml of water was added thereto, and stirring was continued for 3 hours. The chloroform layer of the resultant reaction mixture was separated, washed with 100 ml of 0.02 N sulfuric acid, 100 ml of water and 100 ml of saturated aqueous sodium bicarbonate successively, and dried over anhydrous sodium sulfate. This solution was concentrated, and the resultant residue was chromatographed on a silica gel column using a mixed solution of chloroform-methanol (the ratio by volume of 150:1) as an eluent to obtain 16.3 g (yield 89.0%) of 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)-3-methoxycarbonylpyridine-5-carboxylic acid 6-tosyloxyhexyl ester. The IR and PMR spectra of this product were as follows.

reactant | 2,3-dichlorobenzaldehyde | 0.20 mole, 35.0 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | methyl 3-aminocrotonate | 0.20 mole, 23.0 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | acetoacetic acid 6-hydroxyhexyl ester | 0.20 mole, 40.0 g | OCCCCCCOC(CC(=O)C)=O | C10H18O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)-3-methoxycarbonylpyridine-5-carboxylic acid 6-hydroxyhexyl ester | 34.7 g, yield 38.0% | OCCCCCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C(=CC=C1)Cl)Cl | C22H27Cl2NO5
